US08754107B2
To a solution of 1-methyl-3-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridine-6-carbonyl)-3H-imidazol-1-ium iodide (preparation #3) (0.046 g, 0.10 mmol) in DCM (1 mL) was added pyrrolidin-3-ol (0.009 g, 0.10 mmol) and Et3N (0.014 mL, 0.10 mmol) and the reaction mixture was shaken at ambient temperature for about 30 min. The reaction mixture was dried in vacuo (Genevac®) and the residue purified by RP-HPLC (10% acetonitrile/0.05M aqueous ammonium acetate, buffered to pH 4.5 for 3 min., 10% to 65% acetonitrile/0.05M aqueous ammonium acetate over 6 min at 22.5 mL/min with 2.5 mL/min. acetonitrile at-column dilution; APCI positive mode detection; Xterra prep. MS C18. 19×50 mm column) to afford (3-hydroxy-pyrrolidin-1-yl)-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone (0.011 g, 33%). RP-HPLC (Table 1, Method a) Rt 1.72 min; m/z: (M+H)+ 316.

reactant | 1-methyl-3-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridine-6-carbonyl)-3H-imidazol-1-ium iodide | 0.10 mmol, 0.046 g | [I-].C[N+]1=CN(C=C1)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F
reactant | pyrrolidin-3-ol | 0.10 mmol, 0.009 g | N1CC(CC1)O | C4H9NO
reactant | Et3N | 0.10 mmol, 0.014 mL | CCN(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (3-hydroxy-pyrrolidin-1-yl)-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone | 0.011 g, 33% | OC1CN(CC1)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C14H16F3N3O2
